US04593144
Preparation of 4-Ethyl Benzotrichloride
22.7 gms of 4-ethyl benzal chloride dissolved in 100 gms of carbon tetrachloride was charged into a reaction vessel with 2.0 gms of Aliquot 4. 150 ml of 50% sodium hydroxide was added and the mixture heated to reflux for a period of about 1 hour. After the completion of the reaction, water was added to the mixture and the organic layer separated by phase separation. The organic solvent was stripped on a rotovac and product distilled on Krughrohr to give 23.8 gms of pale yellow liquid. (Yield 89%). [Pot temperature 90° -100° C. (at 0.15 mm/Hg - 0.2×105 pascals)]. Elemental analysis for C9H9Cl3 :

reactant | 4-ethyl benzal chloride | 22.7 gms | C(C)C1=CC=C(C(Cl)Cl)C=C1 | C9H10Cl2
reactant | sodium hydroxide | 150 ml | [OH-].[Na+]
reactant | water | O | H2O
reactant | carbon tetrachloride | 100 gms | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Ethyl Benzotrichloride | 23.8 gms, Yield 89% | C(C)C1=CC=C(C=C1)C(Cl)(Cl)Cl | C9H9Cl3
